// Generated for: spectre
// Generated on: May  3 21:58:32 2025
// Design library name: DAY7
// Design cell name: ex1_small_signal
// Design view name: schematic
simulator lang=spectre
global 0
parameters gm3=0.319m rds3=13.043M cgb3=84.34f cgs3=372.5f cgd3=13.22f \
    cdb3=79.52f cds3=184.79f cdb2=9.65f cds2=0.02f cgb2=3.61f cgd2=3.2f \
    cgs2=26.9f gm2=0.227m rds2=452599 cdb4=66f cds4=0.77f cgb4=178f \
    cgd4=25.65f cgs4=317f gm4=97u rds4=2.355M cdb1=32.99f cds1=0.96f \
    cgb1=35f cgd1=13.2f cgs1=14.9f gm1=0.122m rds1=4.068M
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/config.scs" section=default
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/param.scs" section=3s
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/bip.scs" section=tm
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/cap.scs" section=tm
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/dio.scs" section=tm
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/mos.scs" section=tm
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/photo.scs" section=tm
include "/pkg/xfab2/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/res.scs" section=tm

// Library name: DAY2
// Cell name: MOS_AC
// View name: schematic
subckt MOS_AC D G S
parameters gm rds cgb cgs cgd cdb cds
    G0 (D S G S) vccs gm=gm
    R0 (D S) resistor r=rds
    C6 (G S) capacitor c=cgb
    C5 (G S) capacitor c=cgs
    C4 (G D) capacitor c=cgd
    C3 (D S) capacitor c=cdb
    C0 (D S) capacitor c=cds
ends MOS_AC
// End of subcircuit definition.

// Library name: DAY7
// Cell name: ex1_small_signal
// View name: schematic
I24 (VA1 net12 0) MOS_AC gm=gm4 rds=rds4 cgb=cgb4 cgs=cgs4 cgd=cgd4 \
        cdb=cdb4 cds=cds4
I23 (net12 net12 0) MOS_AC gm=gm4 rds=rds4 cgb=cgb4 cgs=cgs4 cgd=cgd4 \
        cdb=cdb4 cds=cds4
I20 (VA1 net10 S3) MOS_AC gm=gm1 rds=rds1 cgb=cgb1 cgs=cgs1 cgd=cgd1 \
        cdb=cdb1 cds=cds1
I18 (net12 net11 S3) MOS_AC gm=gm1 rds=rds1 cgb=cgb1 cgs=cgs1 cgd=cgd1 \
        cdb=cdb1 cds=cds1
I31 (VO1 0 0) MOS_AC gm=gm3 rds=rds3 cgb=cgb3 cgs=cgs3 cgd=cgd3 cdb=cdb3 \
        cds=cds3
I29 (VO1 VA1 0) MOS_AC gm=gm2 rds=rds2 cgb=cgb2 cgs=cgs2 cgd=cgd2 cdb=cdb2 \
        cds=cds2
V8 (net8 0) vsource mag=1 type=sine
V6 (net10 0) vsource mag=1 type=sine
R6 (0 VA2) resistor r=rds4
R12 (VO2 0) resistor r=rds3
R11 (VO2 net14) resistor r=180k
R5 (0 VA2) resistor r=rds1
R8 (VO1 net11) resistor r=180k
R7 (VO2 0) resistor r=rds2
R9 (net11 0) resistor r=20k
R10 (net14 0) resistor r=20k
C6 (0 VA2) capacitor c=cds1+cdb1+cgd4 +cdb4
C7 (VA2 0) capacitor c=cgb2 +cgs2
C3 (net14 net8) capacitor c=cgb1/2 +cgs1/2
C2 (net8 VA2) capacitor c=cgd1
C1 (net14 0) capacitor c=cgd1
C10 (VO2 0) capacitor c=cds2+cdb2+cgd3+cds3+cdb3
C13 (VO1 0) capacitor c=1p
C8 (VA2 VO2) capacitor c=cgd2
C12 (VO2 net14) capacitor c=60f
C11 (VO1 net11) capacitor c=75f
C14 (VO2 0) capacitor c=1p
G1 (VO2 0 VA2 0) vccs gm=gm2
G0 (0 VA2 net14 net8) vccs gm=gm1
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=0.01 stop=10G dec=20 annotate=status 
pz ( VO1 ) pz iprobe=V6 freq=1 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
