// Generated for: spectre
// Generated on: Nov 17 10:27:03 2025
// Design library name: DAY8
// Design cell name: trans_2st_bias6
// Design view name: schematic
simulator lang=spectre
global 0
parameters IN=0
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: DAY8
// Cell name: trans_2st_bias6
// View name: schematic
M4 (net3 net3 0 0) nel w=5u l=4u as=1.875e-12 ad=1.35e-12 ps=8.25e-06 \
        pd=5.54e-06 nrs=0.054 nrd=0.054 m=(1)*(4) par1=(1)*(4) xf_subext=0
M3 (net6 net3 0 0) nel w=5u l=4u as=1.875e-12 ad=1.35e-12 ps=8.25e-06 \
        pd=5.54e-06 nrs=0.054 nrd=0.054 m=(2)*(4) par1=(2)*(4) xf_subext=0
M2 (VDD net7 VOUT 0) nel w=5u l=180.0n as=1.6125e-12 ad=1.35e-12 \
        ps=6.895e-06 pd=5.54e-06 nrs=0.054 nrd=0.054 m=(1)*(8) \
        par1=(1)*(8) xf_subext=0
M9 (net8 net3 0 0) nel w=5u l=4u as=1.875e-12 ad=1.35e-12 ps=8.25e-06 \
        pd=5.54e-06 nrs=0.054 nrd=0.054 m=(2)*(4) par1=(2)*(4) xf_subext=0
M1 (net7 net9 net4 0) nel w=5u l=180.0n as=1.6125e-12 ad=1.35e-12 \
        ps=6.895e-06 pd=5.54e-06 nrs=0.054 nrd=0.054 m=(1)*(8) \
        par1=(1)*(8) xf_subext=0
M12 (VOUT net3 0 0) nel w=5u l=4u as=1.875e-12 ad=1.35e-12 ps=8.25e-06 \
        pd=5.54e-06 nrs=0.054 nrd=0.054 m=(15)*(4) par1=(15)*(4) \
        xf_subext=0
M11 (net9 net9 net3 0) nel w=5u l=180.0n as=1.875e-12 ad=1.35e-12 \
        ps=8.25e-06 pd=5.54e-06 nrs=0.054 nrd=0.054 m=(1)*(4) par1=(1)*(4) \
        xf_subext=0
M0 (net4 net1 0 0) nel w=5u l=180.0n as=1.6125e-12 ad=1.35e-12 \
        ps=6.895e-06 pd=5.54e-06 nrs=0.054 nrd=0.054 m=(1)*(8) \
        par1=(1)*(8) xf_subext=0
R1 (0 net11) resistor r=100K
R2 (0 VOUT) resistor r=100K
R0 (net1 VOUT) resistor r=100K
C17 (net11 0) capacitor c=1p
C0 (net1 VOUT) capacitor c=100f
C1 (net11 net1) capacitor c=1u
V6 (VDD 0) vsource dc=1.8 type=dc
I3 (VDD net9) isource dc=1u type=dc
I1 (0 net11) isource dc=IN mag=1 type=sine
C3 (VDD net8 0) mosvc w=20u l=10u m=(1)*(1) par1=(1)*(1) xf_subext=0
C2 (VDD net6 0) mosvc w=20u l=10u m=(1)*(1) par1=(1)*(1) xf_subext=0
M6 (net13 net6 VDD VDD) pel w=1u l=8u as=4.8e-13 ad=4.8e-13 ps=2.96e-06 \
        pd=2.96e-06 nrs=0.27 nrd=0.27 m=(10)*(1) par1=(10)*(1)
M5 (net5 net6 VDD VDD) pel w=1u l=8u as=4.8e-13 ad=4.8e-13 ps=2.96e-06 \
        pd=2.96e-06 nrs=0.27 nrd=0.27 m=(1)*(1) par1=(1)*(1)
M7 (net7 net8 net13 VDD) pel w=5u l=1u as=2.4e-12 ad=2.4e-12 ps=1.096e-05 \
        pd=1.096e-05 nrs=0.054 nrd=0.054 m=(10)*(1) par1=(10)*(1)
M8 (net6 net8 net5 VDD) pel w=5u l=1u as=2.4e-12 ad=2.4e-12 ps=1.096e-05 \
        pd=1.096e-05 nrs=0.054 nrd=0.054 m=(10)*(1) par1=(10)*(1)
M10 (net8 net8 VDD VDD) pel w=1u l=5u as=4.8e-13 ad=4.8e-13 ps=2.96e-06 \
        pd=2.96e-06 nrs=0.27 nrd=0.27 m=(1)*(1) par1=(1)*(1)
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
noise ( VOUT ) noise start=0.01 stop=200M dec=20 iprobe=I1 annotate=status 
ac ac start=0.01 stop=100M dec=20 annotate=status 
pz ( VOUT ) pz iprobe=I1 freq=1 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save VOUT 
saveOptions options save=allpub
